US05644051
The 2-carboxylic acid (8c), as produced in Example 13a, was converted to the carbacephem (9a) through reaction with trimethylsilyl iodide (TMSI). Specifically, the carboxylic acid (8c) (0.726 g, 2 mM), was combined with 5 ml acetonitrile (ACN), HMDS (1.06 ml, 5 mM), and TMSI (0.72 ml, 5 mM), and the mixture was stirred for 4 hours at room temperature. DABCO (0.56 g, 5 mM) in 5 ml ACN was added and the solution stirred overnight at room temperature, yielding a DABCO-HI precipitate. Both reactions appeared normal and the DABCO reaction (elimination) gave an HPLC ratio of product to starting material of 39.1/12.0 for a conversion of about 77%. 5 ml of 1N HCl was added and the mixture stirred for 30 min. at room temperature. The pH was at 3.55. The DABCO-HI precipitate dissolved and the desired carbacephem product (9a) appeared as a precipitate. The product was filtered and washed successively with 10 ml of ACN/H2O (2/1), 5 ml of H2O, and 5 ml of ACN. Vacuum drying at 50° C. yielded 0.275 g of a nearly white solid. Yield was about 63.5%. NMR was excellent in DMSO (d-6) with trifluoroacetic acid (TFA) to dissolve. NMR (DMSO d-6, TFA): δ 1.95 (m, 2), 2.67 (m, 2), 3.94 (m, 1), 4.83 (d, 1), 8.57 (bs, 5).

reactant | trimethylsilyl iodide | C[Si](C)(C)I | C3H9ISi
reactant | HMDS | 5 mM, 1.06 ml | C[Si](C)(C)N[Si](C)(C)C | C6H19NSi2
reactant | TMSI | 5 mM, 0.72 ml | C[Si](C)(C)I | C3H9ISi
reactant | DABCO | 5 mM, 0.56 g | C1CN2CCN1CC2 | C6H12N2
solvent | ACN | 5 ml | C(C)#N | C2H3N
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | DABCO HI | Yield was about 63.5% | C1CN2CCN1CC2.I | InChI=1S/C6H12N2.HI/c1-2-8-5-3-7(1)4-6-8;/h1-6H2;1H
